US05187156
A solution of Boc-Phe-OH (5.48 g) and NMM (2.09 g) in methylene chloride (50 ml) was cooled to -20° C. To this solution was added dropwise isobutyl chloroformate (2.82 g) maintaining the temperature between -22° C. to -20° C. in 7 minutes. After stirring the mixture for 20 minutes at the same temperature, the solution was cooled to -35° C. and HNMeBzl (2.50 g) was added dropwise to the solution. The reaction mixture was stirred for 2 hours during which period the temperature was gradually raised to -2° C. The solution was washed successively with water (twice), diluted sodium hydrogencarbonate solution (twice), water 0.5N hydrochloric acid (twice), and sodium chloride solution, and dried over magnesium sulfate. After evaporation, the solidified residue was pulverized in hot diisopropyl ether (10 ml), and after cooling, n-hexane (30 ml) was added to the mixture. The crystalline solid was filtered, washed with n-hexane (5 ml×2), and dried to give Boc-Phe-NMeBzl (6.49 g).

reactant | Boc-Phe-OH | 5.48 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | NMM | 2.09 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.82 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HNMeBzl | 2.50 g | N(C)CC1=CC=CC=C1 | C8H11N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Boc-Phe-NMeBzl | 6.49 g | N([C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C22H28N2O3
